US08212050B2
0.58 g of the obtained 2-(methoxyimino)acetate was dissolved in 30 ml of xylene and 1.00 g of 4-chloro-2-fluoro-5-propargyloxyaniline was added thereto. 0.17 ml of phosphorus trichloride was then added to the resulting solution and the entire mixture was heated to reflux for 1 hour. After cooling the resulting reaction solution, sodium bicarbonate water was added thereto and the resultant solution was then extracted with ethyl acetate. After washing with saturated saline, the organic layer was dried with anhydrous magnesium sulfate and filtered. The concentrate obtained by evaporating solvents from the filtrate under reduced pressure was washed with a mixed solvent of ether-normal hexane to obtain 0.70 g of N-(4-chloro-2-fluoro-5-propargyloxyphenyl)-2-(methoxyimino)acetamide (yield 49%).

reactant | 2-(methoxyimino)acetate | 0.58 g | CON=CC(=O)[O-]
reactant | 4-chloro-2-fluoro-5-propargyloxyaniline | 1.00 g | ClC1=CC(=C(N)C=C1OCC#C)F | C9H7ClFNO
reactant | phosphorus trichloride | 0.17 ml | P(Cl)(Cl)Cl | Cl3P
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-chloro-2-fluoro-5-propargyloxyphenyl)-2-(methoxyimino)acetamide | 0.70 g, yield 49% | ClC1=CC(=C(C=C1OCC#C)NC(C=NOC)=O)F | C12H10ClFN2O3
